US07943622B2
Step 5. Synthesis of tert-butyl 3-(2-(pyridin-3-yl)ethyl)piperazine-1-carboxylate, Intermediate AE
Ammonium formate (0.492 g, 7.80 mmol) was added to a mixture of 1-benzyl 4-tert-butyl 2-(2-(pyridin-3-yl)ethyl)piperazine-1,4-dicarboxylate (1.66 g, 3.90 mmol) and palladium hydroxide on carbon (˜20% Pd, 0.137 g, 0.20 mmol) in EtOH (100 mL). The reaction mixture was heated to reflux for 3 h. Upon cooling to rt, the reaction mixture was filtered though Celite®, and the filtrate was concentrated under reduced pressure. Purification by column chromatography (0 to 5% MeOH in CH2Cl2 gradient) gave 0.683 g (60%) of the desired product. Rf=0.34 in 10% MeOH/CH2Cl2. LC-MS: RT=3.33 min., [M+H]+=292.2.

reactant | Ammonium formate | 7.80 mmol, 0.492 g | C(=O)[O-].[NH4+]
reactant | 1-benzyl 4-tert-butyl 2-(2-(pyridin-3-yl)ethyl)piperazine-1,4-dicarboxylate | 3.90 mmol, 1.66 g | N1=CC(=CC=C1)CCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C24H31N3O4
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | palladium hydroxide on carbon | 0.20 mmol, 0.137 g | [OH-].[OH-].[Pd+2]
product | tert-butyl 3-(2-(pyridin-3-yl)ethyl)piperazine-1-carboxylate | 0.683 g, 60% | N1=CC(=CC=C1)CCC1CN(CCN1)C(=O)OC(C)(C)C | C16H25N3O2
